US08476297B2
To a solution of 5-bromo-2-(trifluoromethyl)pyridine (258 mg, 1144 μmol) in THF (5 mL) at 0° C. was added isopropylmagnesium chloride (572 μL, 1144 μmmol) and the red/brown solution was stirred 2 h under N2. To a solution of 3,4-dihydroisoquinoline (75 mg, 572 μmol) in THF (2 mL) at 0° C. was added benzyl chloroformate (90 μL, 629 μmol) and the reaction was warmed to RT and stirred 15 min. The solution of Grignard reagent was added to the iminium salt and the reaction warmed to RT and stirred 1 h. The reaction was quenched with saturated NH4Cl (20 mL) and extracted with CH2Cl2 (3×20 mL). The combined organic layers were dried (MgSO4) and concentrated to give a yellow oil. Purification by ISCO (12 g SiO2, 0-50% EtOAc/hexane) gives benzyl 1-(6-(trifluoromethyl)-pyridin-3-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate as a yellow oil.

reactant | 5-bromo-2-(trifluoromethyl)pyridine | 1144 μmol, 258 mg | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
reactant | isopropylmagnesium chloride | 572 μL | C(C)(C)[Mg]Cl
reactant | 3,4-dihydroisoquinoline | 572 μmol, 75 mg | C1=NCCC2=CC=CC=C12 | C9H9N
reactant | benzyl chloroformate | 629 μmol, 90 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | benzyl 1-(6-(trifluoromethyl)-pyridin-3-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | FC(C1=CC=C(C=N1)C1N(CCC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)(F)F | C23H19F3N2O2
